US07598418B2
(2) Preparation of N-benzyl-5-{[(4-methylphenyl)sulfonyl]oxy}naphthalene-1-sulfonamide
Triethylamine (0.17 ml, 1.2 mmol) was added to benzylamine (117.9 mg, 1.1 mmol) dissolved in tetrahydrofuran (5 ml). After the solution was cooled in the ice bath, 5-{[(4-methylphenyl)sulfonyl]oxy}naphthalene-1-sulfonyl chloride (396.9 mg, 1.2 mmol) was added, and the mixture was stirred at room temparature for 1 hour. The reaction mixture was poured into diluted hydrochloric acid and extracted with ethyl acetate. After the organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (eluent; n-hexane : ethyl acetate=2:1) and crystallized (ethyl acetate/hexane) to give the title compound as a white crystal (398.8 mg, 85.3%).

reactant | Triethylamine | 1.2 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 1.1 mmol, 117.9 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-{[(4-methylphenyl)sulfonyl]oxy}naphthalene-1-sulfonyl chloride | 1.2 mmol, 396.9 mg | CC1=CC=C(C=C1)S(=O)(=O)OC1=C2C=CC=C(C2=CC=C1)S(=O)(=O)Cl | C17H13ClO5S2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-benzyl-5-{[(4-methylphenyl)sulfonyl]oxy}naphthalene-1-sulfonamide | 398.8 mg, 85.3% | C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C | C24H21NO5S2
